US06579884B1
Synthesis of 8-(2-hydroxymethyl-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine hydrochloride
To an icecooled mixture of 2-(((2,3-dimethylimidazo[1,2-a]pyridin-8-yl)amino)methyl)-3-methylbenzoic acid (0.18 g, 0.59,mmol) in toluene (30 ml) was added dropwise Red-A1 (5 ml) in toluene (7 ml) and was stirred at room temperature for 20 h. The mixture was cooled with ice and water (10 ml) and methylene chloride were added. After filtration the filtrate was evaporated under reduced pressure and the residue was purified by column chromatography on silica gel using methylene chloride:methanol (100:5) as eluent. The product was solved in methylene chloride/ether and treated with HCl/diethyl ether to give 0.024 g (12%) of the title compound.

reactant | 2-(((2,3-dimethylimidazo[1,2-a]pyridin-8-yl)amino)methyl)-3-methylbenzoic acid | 0.18 g | CC=1N=C2N(C=CC=C2NCC2=C(C(=O)O)C=CC=C2C)C1C | C18H19N3O2
reactant | water | 10 ml | O | H2O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
product | 8-(2-hydroxymethyl-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine hydrochloride | 0.024 g, 12% | Cl.OCC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)C)C(=CC=C1)C | InChI=1S/C18H21N3O.ClH/c1-12-6-4-7-15(11-22)16(12)10-19-17-8-5-9-21-14(3)13(2)20-18(17)21;/h4-9,19,22H,10-11H2,1-3H3;1H
